US04021479
4-(2'-Fluoro-4'-chloro-4-biphenylyl)-butyric acid
Prepared analogous to Example 1 from 4-(2'-fluoro-4'-chloro-4-biphenylyl)-4-oxo-butyric acid. yield: 60% of theory. Melting point of the cyclohexylamine salt: 134°-136° C. (from isopropanol).

reactant | 4-(2'-fluoro-4'-chloro-4-biphenylyl)-4-oxo-butyric acid | FC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H12ClFO3
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-(2'-Fluoro-4'-chloro-4-biphenylyl)-butyric acid | yield: 60% | FC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)CCCC(=O)O | C16H14ClFO2
